US07291580B2
A solution of lithium hydroxide (159 mg, 1.27 mmol) in water (6 mL) was added to a solution of methyl 4-amino-3-chloro-6-(1,1-difluroethyl)-pyridine-2-carboxylate (159 mg, 0.63 mmol) in tetrahydrofuran (6 mL). The mixture was vigorously stirred at room temperature overnight and was then concentrated to near dryness. After adding water, the reaction mixture was washed once with ethyl acetate to remove unreacted starting material. The aqueous layer was then acidified to pH<3 with 1N HCl and extracted with ethyl acetate. The organic layer was dried (MgSO4), concentrated and the residue triturated with cold hexane to provide 4-amino-3-chloro-6-(1,1-difluoroethyl)-pyridine-2-carboxylic acid (105 mg, 0.44 mmol) as a white solid; 1H NMR (DMSO-d6): δ 7.02 (s, 1H), 6.94 (br.s, 2H), 1.90 (t, 3H).

reactant | lithium hydroxide | 1.27 mmol, 159 mg | [OH-].[Li+]
reactant | methyl 4-amino-3-chloro-6-(1,1-difluroethyl)-pyridine-2-carboxylate | 0.63 mmol, 159 mg | NC1=C(C(=NC(=C1)C(C)(F)F)C(=O)OC)Cl | C9H9ClF2N2O2
solvent | water | 6 mL | O | H2O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 4-amino-3-chloro-6-(1,1-difluoroethyl)-pyridine-2-carboxylic acid | 0.44 mmol, 105 mg | NC1=C(C(=NC(=C1)C(C)(F)F)C(=O)O)Cl | C8H7ClF2N2O2
